US03966960
Preparation of 3-(4-Biphenylcarbonyl)propionic acid
A 135 g. portion of aluminum chloride is dissolved in 500 ml. of nitrobenzene, the solution being held below 10°C. by external cooling. A finely ground mixture of 50 g. of succinic anhydride and 75 g. of biphenyl is added to the stirred solution, the temperature being held below 10°C. It is then held at room temperature for 4 days. After pouring the reaction mixture into a solution of 150 ml. of concentrated hydrochloric acid in one liter of ice water, the nitrobenzene is removed by steam distillation. The solid is collected, dissolved in 4 liters of 3% hot sodium carbonate solution, clarified and reprecipitated by the addition of excess 6N sulfuric acid solution. The crude product is collected, dried, and recrystallized from ethanol to give the pure product, melting point 185°-187°C.

reactant | aluminum chloride | [Cl-].[Al+3].[Cl-].[Cl-]
reactant | nitrobenzene | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | succinic anhydride | C1(CCC(=O)O1)=O | C4H4O3
reactant | biphenyl | C1(=CC=CC=C1)C1=CC=CC=C1 | C12H10
product | 3-(4-Biphenylcarbonyl)propionic acid | C1(=CC=C(C=C1)C(=O)CCC(=O)O)C1=CC=CC=C1 | C16H14O3
